US04494979
To a suspension composed of 100 ml of water and 100 ml of 2-propanol and containing 24.8 g of lithium 2,3-dihydro-2,2-dimethyl-7-methoxy-6-benzofuransulfinate is added portionwise 14.7 g of N-chlorosuccinimide. The reaction temperature is maintained at 15°-20° during the addition by occasional cooling with an ice-water bath. After addition is complete, the suspension is stirred at ambient temperature for one hour and then is diluted with water. The aqueous mixture is extracted twice with methylene chloride. The combined organic extractions are dried over sodium sulfate and then the solvent is evaporated under reduced pressure to afford crude 2,3-dihydro-2,2-dimethyl-7-methoxy-6-benzofuransulfonyl chloride.

reactant | 2-propanol | 100 ml | CC(C)O | C3H8O
reactant | lithium 2,3-dihydro-2,2-dimethyl-7-methoxy-6-benzofuransulfinate | 24.8 g | CC1(OC2=C(C1)C=CC(=C2OC)S(=O)[O-])C.[Li+]
reactant | N-chlorosuccinimide | 14.7 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | water | O | H2O
solvent | water | 100 ml | O | H2O
product | 2,3-dihydro-2,2-dimethyl-7-methoxy-6-benzofuransulfonyl chloride | CC1(OC2=C(C1)C=CC(=C2OC)S(=O)(=O)Cl)C | C11H13ClO4S
